US08957070B2
7-[(2-Thienylcarbonyl)amino]-1H-indole-2-carboxamide
To a mixture of 7-[(2-thienylcarbonyl)amino]-1H-indole-2-carboxylic acid (100 mg), 1H-1,2,3-benzotriazol-1-ol-ammonia complex (63 mg) and N,N-dimethylformamide (5 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (80 mg) at 4° C., and the mixture was stirred at room temperature for 18 hr. The reaction mixture was diluted with ethyl acetate, washed with aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained crystals were washed with ethyl acetate-hexane to give the title compound (97 mg, yield 98%) as pale-brown crystals. melting point 289-290° C.

reactant | 7-[(2-thienylcarbonyl)amino]-1H-indole-2-carboxylic acid | 100 mg | S1C(=CC=C1)C(=O)NC=1C=CC=C2C=C(NC12)C(=O)O | C14H10N2O3S
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 80 mg | Cl.CN(CCCN=C=NCC)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[(2-Thienylcarbonyl)amino]-1H-indole-2-carboxamide | 97 mg, yield 98% | S1C(=CC=C1)C(=O)NC=1C=CC=C2C=C(NC12)C(=O)N | C14H11N3O2S
